### ISSUE TITLE
Indirect reference to private field fails inside private theorem

### ISSUE THREAD

**Issue by Kha** [leanprover/lean4#11747]
As reported at https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Unknown.20constant.20for.20private.20structure.20field/with/564791362

```lean
module

public structure A where
  private a : Nat

private theorem ext_iff {x y : A} : x = y ↔ x.a = y.a := by
  rw [A.mk.injEq]

private theorem ext {x y : A} : x.a = y.a → x = y := by
  exact ext_iff.2 -- error: unknown constant A.a
```
